US05880118
Step 1: 3-(2-fluoro-4-nitrophenyl)thiazolidine
Using the same general procedure as step 1, of Example 1, 4.092 g (45.90 mmol) thiazolidine was treated with 4.1 mL (37.03 mmol) 3,4-difluoronitrobenzene and 10.0 mL (57.41 mmol) N,N diisopropylethyl amine to provide 2.020 g (24%) of the title compound as an orange solid. Recystallization from methylene chloride/hexane provided an analytical sample with a melting point of 94°-95° C.

reactant | thiazolidine | 45.90 mmol, 4.092 g | S1CNCC1 | C3H7NS
reactant | 3,4-difluoronitrobenzene | 37.03 mmol, 4.1 mL | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
reactant | N,N diisopropylethyl amine | 57.41 mmol, 10.0 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | 3-(2-fluoro-4-nitrophenyl)thiazolidine | 2.020 g, 24% | FC1=C(C=CC(=C1)[N+](=O)[O-])N1CSCC1 | C9H9FN2O2S
